US06350749B1
To a solution of 1M boron tribromide in dichloromethane (12.3 ml) was added dropwise a solution of 7-(5-chloro-2-methoxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (1.2 g) in dichloromethane (30 ml) at 0° C. The reaction solution was stirred at room temperature for 1.5 hours, and to the solution were added ice and sodium hydrogen carbonate solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, and dried with sodium sulfate. Under reduced pressure, the solvent was evaporated to give 7-(5-chloro-2-hydroxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one.

reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | 7-(5-chloro-2-methoxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 1.2 g | ClC=1C=CC(=C(C1)C1CC(C=2C(=CC=NC2C1)C)=O)OC | C17H16ClNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 12.3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-(5-chloro-2-hydroxyphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | ClC=1C=CC(=C(C1)C1CC(C=2C(=CC=NC2C1)C)=O)O | C16H14ClNO2
